US04985585
Ethyl 4-[6-acetyl-3-[3-(4-acetyl-3-hydroxy-2-propylphenylthio)-propylthio]-2-propylphenoxy]butyrate
A mixture of ethyl 4-(6-acetyl-3-mercapto-2-propylphenoxy)-butyrate (2.0 g), (4-(3-bromopropylthio)-2-hydroxy-3-propylphenyl)ethanone (2.0 g), potassium iodide (0.5 g) and potassium carbonate (1.7 g) in acetone (40 ml) was heated with refluxing and stirring for 9 hours. After cooled, inorganic materials were separated by filtration and the filtrate was concentrated. The resultant residue was separated, and was purified through silicagel column chromatography (eluting with benzene:ethyl acetate=9:1) to give the title compound (1.8 g, 50.8%) as yellow oil.

reactant | ethyl 4-(6-acetyl-3-mercapto-2-propylphenoxy)-butyrate | 2.0 g | C(C)(=O)C1=CC=C(C(=C1OCCCC(=O)OCC)CCC)S | C17H24O4S
reactant | (4-(3-bromopropylthio)-2-hydroxy-3-propylphenyl)ethanone | 2.0 g | BrCCCSC1=C(C(=C(C=C1)C(C)=O)O)CCC | C14H19BrO2S
reactant | potassium iodide | 0.5 g | [I-].[K+]
reactant | potassium carbonate | 1.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | Ethyl 4-[6-acetyl-3-[3-(4-acetyl-3-hydroxy-2-propylphenylthio)-propylthio]-2-propylphenoxy]butyrate | 1.8 g, 50.8% | C(C)(=O)C1=CC=C(C(=C1OCCCC(=O)OCC)CCC)SCCCSC1=C(C(=C(C=C1)C(C)=O)O)CCC | C31H42O6S2
